US05502054
The synthesis of intermediates leading to different values of m and X is within the capability of one skilled in the art. Example 3 details the method of making the compound wherein X is --CH(CH3)-- and m is 2. This synthesis starts with the reduction of 2-(4-chlorophenyl)propionic acid with lithium aluminum hydride, producing 2-(4-chlorophenyl)propanol. Oxidation of this alcohol with pyridinium chlorochromate in methylene chloride produces 2-(4-chlorophenyl)propionaldehyde. This aldehyde is then reacted with (carbethoxymethylene)triphenylphosphorane, yielding ethyl 4-(4-chlorophenyl)-2-pentenoate. Hydrogenation of this ester in the presence of platinum oxide produces ethyl 4-(4-chlorophenyl)pentanoate which is then hydrolyzed with sodium hydroxide to the corresponding pentanoic acid (II). The remaining steps of this synthesis are shown in Schema 1.

reactant | 2-(4-chlorophenyl)propionic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(4-chlorophenyl)propanol | ClC1=CC=C(C=C1)C(CO)C | C9H11ClO
